US07834048B2
N-[4-((1R,5S,6R)-3-Propyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-4-furan-2-yl-benzenesulfonamide
4-Bromo-N-[4-((1R,5S,6R)-3-propyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-benzenesulfonamide (50 mg, 0.11 mmol), 2-(tributylstannyl)-furan (199 mg, 0.56 mmol) and tetrakistriphenylphosphinpalladium(0) (26 mg, 0.02 mmol) were dissolved in 5 ml of tetrahydrofuran and stirred for 40 minutes at 150° C. in the microwave (CEM). The reaction mixture was filtered over celite, washed with methanol, and the filtrate evaporated to dryness under reduced pressure. The residue was purified via silica gel chromatography with ethyl acetate, and ethyl acetate/methanol (15%). Fractions containing the product were combined, the solvent evaporated to yield 4.2 mg of the title product (yield 9%).

reactant | 4-Bromo-N-[4-((1R,5S,6R)-3-propyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-benzenesulfonamide | 0.11 mmol, 50 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)[C@H]1[C@@H]2CN(C[C@@H]2C1)CCC | C21H25BrN2O2S
reactant | 2-(tributylstannyl)-furan | 0.56 mmol, 199 mg | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[4-((1R,5S,6R)-3-Propyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-4-furan-2-yl-benzenesulfonamide | 4.2 mg, yield 9% | C(CC)N1C[C@@H]2C[C@H]([C@@H]2C1)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C=1OC=CC1 | C25H28N2O3S
